US04851413
A solution of 10.0 g (63.3 mmol) of 3-bromopyridine in 100 ml of ether was cooled to -78° C., to which 40 ml (64 mmol) of 1.6M n-butyllithium hexane solution was added dropwise with stirring. After completion of the addition, the mixture was stirred for further 15 minutes, to which the solution of 5.45 g (63.3 mmol) of γ-butyrolactone in 15 ml of ether was added dropwise, and stirred for further 1 hour at -78° C.-room temperature. To the reaction mixture an aqueous solution of ammonium chloride, and the resultant substance was extracted with ethyl acetate. The extract was washed with water and dried, and the solvent was evaporated off. The residue was purified with silica gel column chromatography (CHCl3 -MeOH (9:1)) and recrystallized from ethyl acetate-isopropyl ether, to give 8.0 g (77%) of 4-(3-pyridyl)-4-oxobutanol. m.p. 36°-37° C.

reactant | 3-bromopyridine | 63.3 mmol, 10.0 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyllithium hexane | 64 mmol, 1.6M, 40 ml | CCCCCC.C(CCC)[Li]
reactant | γ-butyrolactone | 63.3 mmol, 5.45 g | C1(CCCO1)=O | C4H6O2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
product | 4-(3-pyridyl)-4-oxobutanol | 8.0 g, 77% | N1=CC(=CC=C1)C(CCCO)=O | C9H11NO2
